US07728142B2
6-Bromo-3-methanesulfonyl-2-methyl-4-(2,4,5-trifluoro-phenyl)-quinoline
(2-Amino-5-bromo-phenyl)-(2,4,5-trifluoro-phenyl)-methanone (compound of example A.4) (1.9 g, 5.7 mmol), methanesulfonylacetone (1.18 g, 8.6 mmol) and sodium tetrachloroaureate(III) dihydrate (0.12 g, 0.28 mmol) were heated at reflux in 2-propanol (50 ml) for 4 days. The resulting mixture was evaporated to dryness and the residue extracted with dichloromethane (2×), NaOH (2×) and NaCl (1×). The crude product was purified by chromatography on silica gel with a heptane/ethyl acetate gradient from 100:0 to 90:10. One obtained a light yellow solid (0.5 g, 20%). MS: m/z=430 (M).

reactant | (2-Amino-5-bromo-phenyl)-(2,4,5-trifluoro-phenyl)-methanone | 5.7 mmol, 1.9 g | NC1=C(C=C(C=C1)Br)C(=O)C1=C(C=C(C(=C1)F)F)F | C13H7BrF3NO
reactant | methanesulfonylacetone | 8.6 mmol, 1.18 g | CS(=O)(=O)CC(C)=O | C4H8O3S
reactant | sodium | 0.28 mmol, 0.12 g | [Na] | Na
solvent | 2-propanol | 50 ml | CC(C)O | C3H8O
product | 6-Bromo-3-methanesulfonyl-2-methyl-4-(2,4,5-trifluoro-phenyl)-quinoline | 0.5 g, 20% | BrC=1C=C2C(=C(C(=NC2=CC1)C)S(=O)(=O)C)C1=C(C=C(C(=C1)F)F)F | C17H11BrF3NO2S
